US06384080B1
A solution of methyl chloroformate (26 mg) in chloroform (2 mL) was added dropwise to a mixture of (S)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(3-pyrrolidinylamino)benzamide (80 mg) and triethylamine (43 mg) in a mixture of chloroform (2 mL) and 1,3-dimethyl-2-imidazolidinone (1 mL) under cooling on an ice bath. The reaction mixture was stirred for 2 hours at same temperature and the reaction was quenched by addition of 3-(N,N-dimethylamino)propylamine (0.1 mL). The mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and 3.6% hydrochloric acid. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography eluting with 70% ethyl acetate in hexane. The obtained crystals were recrystallized from a mixture of 2-propanol and diisopropyl ether to give (S)-5-cyano-N-(3,4-dimethoxybenzyl)-2-[1-(methoxycarbonyl)pyrrolidin-3-ylamino]benzamide (55 mg) as white crystals.

reactant | methyl chloroformate | 26 mg | ClC(=O)OC | C2H3ClO2
reactant | (S)-5-cyano-N-(3,4-dimethoxybenzyl)-2-(3-pyrrolidinylamino)benzamide | 80 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@@H]1CNCC1 | C21H24N4O3
reactant | triethylamine | 43 mg | C(C)N(CC)CC | C6H15N
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | 1,3-dimethyl-2-imidazolidinone | 1 mL | CN1C(N(CC1)C)=O | C5H10N2O
product | (S)-5-cyano-N-(3,4-dimethoxybenzyl)-2-[1-(methoxycarbonyl)pyrrolidin-3-ylamino]benzamide | 55 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@@H]1CN(CC1)C(=O)OC | C23H26N4O5
